US08877742B2
4-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine
A mixture of 4-bromo-1H-pyrrolo[2,3-b]pyridine (1.00 g, 5.08 mmol), SEMCl (0.898 mL, 5.08 mmol) and DIPEA (1.768 mL, 10.15 mmol) in DCM (20.0 mL) was stirred at RT. After 3 nights the mixture was evaporated to dryness. The residues were purified on silica eluting with isohexane and ethyl acetate (0-100%). The appropriate fractions were combined and evaporated to dryness producing the title compound (1.65 g). LCMS (A): m/z (M+H)+ 327/329, C13H19BrN2OSi requires 326/328 (basic).

reactant | 4-bromo-1H-pyrrolo[2,3-b]pyridine | 5.08 mmol, 1.00 g | BrC1=C2C(=NC=C1)NC=C2 | C7H5BrN2
reactant | SEMCl | 5.08 mmol, 0.898 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | DIPEA | 10.15 mmol, 1.768 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 20.0 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridine | 1.65 g | BrC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C13H19BrN2OSi
